data/oMe_Silver.jsonl
{"reaction_id": "NR-207_1-c1ccc2ccccc2c1_2-c1ccc(Cl)cc1_3-C_4-C(C)(C)C","level": "medium","name": "Oppenauer Oxidation","reactants_smiles": ["O=C(c1ccc2ccccc2c1)(c1ccc(Cl)cc1)","C(C)(C(C)(C)C)O"],"products_smiles": ["OC(c1ccc2ccccc2c1)(c1ccc(Cl)cc1).C(C)(=O)C(C)(C)C"],"conditions": "Al(Oi-Pr)3","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(C)(C(C)(C)C)[OH+][Al-](OC(C)C)(OC(C)C)OC(C)C","step_weight": 0,"rationale": "The alcohol oxygen donates a lone pair to the Lewis acidic aluminum center, increasing polarization of the O–H bond and aligning the substrate for subsequent hydride transfer."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(C(C)(C)C)[O][Al](OC(C)C)OC(C)C","step_weight": 0,"rationale": "Proton transfer to an alkoxide ligand generates an aluminum-bound alkoxide, enhancing nucleophilicity at oxygen and stabilizing the complex for rearrangement."},{"step": 3,"type": "rearrangement","subtype": "hydride_shift","intermediate_smiles": "C(C)(C(C)(C)C)[O][Al-](OC(C)C)([O+]=C(c1ccc2ccccc2c1)(c1ccc(Cl)cc1))OC(C)C","step_weight": 0,"rationale": "Hydride shifts from the α-carbon of the coordinated alcohol to the electrophilic carbonyl carbon of the acceptor, driven by the stability of the resulting carbonyl and facilitated by aluminum coordination."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "OC(c1ccc2ccccc2c1)(c1ccc(Cl)cc1).C(C)(=O)C(C)(C)C","step_weight": 0,"rationale": "Product ketone and alcohol are released as aluminum–oxygen bonds are cleaved, favored by the stability of the neutral products and regeneration of the catalyst."}],"description": "In the Oppenauer oxidation, the aluminum isopropoxide catalyst coordinates to the alcohol, activating it for hydride transfer to a more electrophilic carbonyl acceptor. The reaction proceeds due to the thermodynamic drive toward forming a more stable carbonyl compound, with aluminum facilitating both activation and hydride migration."}
{"reaction_id": "NR-112_1-Br_2-C(F)(F)F_3-S(=O)(=O)C_4-C(C)(C)C_5-c2ccc(OC)cc2","name": "Houben-Hoesch Reaction","level": "medium","reactants_smiles": ["c1c(O)c(Br)c(C(F)(F)F)c(S(=O)(=O)C)c1C(C)(C)C","C(c2ccc(OC)cc2)#N"],"products_smiles": ["c1(C(=O)c2ccc(OC)cc2)c(O)c(Br)c(C(F)(F)F)c(S(=O)(=O)C)c1C(C)(C)C"],"conditions": "i. ZnCl2, HCl ii. H2O","mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(=N[Zn])c2ccc(OC)cc2)C(=[OH+])c(Br)c(C(F)(F)F)c(S(=O)(=O)C)c1C(C)(C)C","rationale": "ZnCl2 coordinates to the nitrile nitrogen, increasing the electrophilicity of the carbon and enabling nucleophilic attack by the activated aromatic ring via resonance donation from the phenolic OH."},{"step": 2,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "c1(C(=[NH])c2ccc(OC)cc2)c(O)c(Br)c(C(F)(F)F)c(S(=O)(=O)C)c1C(C)(C)C","rationale": "Proton elimination restores aromaticity, a thermodynamically favored process, stabilizing the intermediate through delocalization over the aromatic ring."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1(C(=[NH2+])c2ccc(OC)cc2)c(O)c(Br)c(C(F)(F)F)c(S(=O)(=O)C)c1C(C)(C)C","rationale": "Acidic conditions protonate the imine nitrogen, making it more susceptible to nucleophilic attack by water in the subsequent hydrolysis step."},{"step": 4,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c1(C(=O)c2ccc(OC)cc2)c(O)c(Br)c(C(F)(F)F)c(S(=O)(=O)C)c1C(C)(C)C","rationale": "Water attacks the protonated imine carbon, and subsequent rearrangement leads to C=O formation, driven by the stability of the aryl ketone product under acidic hydrolysis conditions."}],"description": "Under acidic ZnCl2 catalysis, the phenol activates towards electrophilic attack by a nitrilium ion derived from the nitrile. Subsequent proton transfers and hydrolysis yield the aryl ketone. ZnCl2 coordinates to oxygen/nitrogen, enhancing electrophilicity and stabilizing intermediates."}
